US05378714
4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-[3-(phenylcarbamoyloxy)propyl]piperidine, Hydrochloride
Phenylisocyanate (0.36 g, 3 mmol) and 3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidino]propanol (0.3 g, 1.1 mmol) was refluxed in toluene (25 ml) for 6 h. The mixture was cooled to room temperature and hydrochloric acid in ether was added. The resulting precipitate was recrystallized from ethanol/ether and isopropanol/ether to give 180 mg of the title compound as white crystals. M.p. 204.5°-205.5° C. MS (70 eV): m/z 397 (39%, M+), 278 (4), 259 (26), 233 (50), 178 (28), 96 (100).

reactant | Phenylisocyanate | 3 mmol, 0.36 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidino]propanol | 1.1 mmol, 0.3 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCO)C=C1 | C15H19FN2O2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-[3-(phenylcarbamoyloxy)propyl]piperidine, Hydrochloride | 180 mg | Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC(NC2=CC=CC=C2)=O)C=C1 | InChI=1S/C22H24FN3O3.ClH/c23-17-7-8-19-20(15-17)29-25-21(19)16-9-12-26(13-10-16)11-4-14-28-22(27)24-18-5-2-1-3-6-18;/h1-3,5-8,15-16H,4,9-14H2,(H,24,27);1H
